US07700786B2
Potassium carbonate (9.12 g, 66.0 mmol) was added to a solution of 3-hydroxy-5-methylpyrazole (5.88 g, 60.0 mmol) and 4-fluoro-3-nitrobenzotrifluoride (12.6 g, 60.0 mmol) in DMF (120 ml), and the mixture was stirred at 50° C. for 4 hours. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid (200 ml) and extracted with ethyl acetate (70 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/3), to give a yellow solid of 5-methyl-3-(2-nitro-4-trifluoromethylphenyloxy)pyrazole (12.1 g, yield: 69.0%). mp: 89-91° C.; 1H-NMR (CDCl3, TMS, ppm): δ 2.28 (s, 3H), 5.77 (s, 1H), 7.40 (d, J=8.8 Hz, 1H), 7.76 (dd, J=2.0 and 8.8 Hz, 1H), 8.21 (d, J=2.0 Hz, 1H), 10.10-11.05 (br s, 1H).

reactant | Potassium carbonate | 66.0 mmol, 9.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-hydroxy-5-methylpyrazole | 60.0 mmol, 5.88 g | OC1=NNC(=C1)C | C4H6N2O
reactant | 4-fluoro-3-nitrobenzotrifluoride | 60.0 mmol, 12.6 g | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | hydrochloric acid | 2N, 200 ml | Cl | ClH
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
product | 5-methyl-3-(2-nitro-4-trifluoromethylphenyloxy)pyrazole | 12.1 g, yield: 69.0% | CC1=CC(=NN1)OC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C11H8F3N3O3
